US06124287
A mixture of 10 g of 2,3-dichloroquinoxaline, 4.5 ml of propargylamine, 10.5 ml of triethylamine in 50 ml of ethanol is refluxed for 4 h. After evaporating under vacuum the resulting mixture, the residue is chromatographed on SiO2 (eluent: CH2Cl2) thereby obtaining 7.0 g of 2-chloro-3-(propargylamino)quinoxaline (IR (KBr): 3441, 3282, 1518 cm-1). This product is then added with 10 ml of concentrated sulphuric acid and the resulting mixture is stirred at 90° C. for 1 h. After cooling down and cautiously neutralizing with aqueous NaOH, the resulting precipitate is filtered under vacuum, washed, dried, decolorized and recrystallized from dimethylformamide, thereby obtaining 2.4 g of 1-methylimidazo[1,2-a]quinoxaline-4(5H)-one (m.p. >300° C.).

reactant | 2,3-dichloroquinoxaline | 10 g | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | propargylamine | 4.5 ml | C(C#C)N | C3H5N
reactant | triethylamine | 10.5 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-chloro-3-(propargylamino)quinoxaline | 7.0 g | ClC1=NC2=CC=CC=C2N=C1NCC#C | C11H8ClN3
